* gnetlist -g spice-sdb -o rectifier.net rectifier.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from edt01.sub vvvvvvvv
* LIBRARY OF MY CUSTOM COMPONENTS
* Department: DESE, Indian Institute of Science, Bangalore

***************************************************************
* Diodes
***************************************************************
.model Def D()
****************************************************************
*Diode macro model
.SUBCKT diode_power 101 102
DX 101 102 def_power_diode
Rsh 102 103 10000
Csh 103 101 0.01uF
.model def_power_diode D(RS=0.01, CJO=100pF)
.ENDS
*
*^^^^^^^^  End of included SPICE model from edt01.sub ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
xD1 d e diode_power
xD2 0 d diode_power
xD4 0 b diode_power
xD3 b e diode_power
.INCLUDE edt01.sub
VSe a b SIN(0 325 50 0 0 0)
Rs c d 0.1m
Cf o 0 1000uF
RL 0 o 25
Ls a c 0.01uH
Ld e o 1uH
.end
